*----------------------------------------------------------------------*
* Project: Programmable Delay Line Component - NAND + High-Drive Buffer
* Technology: TSMC 180nm (t77a)
* Author: [Mikołaj Nawrocki]
* Date: March 2026
*----------------------------------------------------------------------*

*** SETTINGS & LIBRARIES ***
.lib 'tsmc180_t77a_spice.lib' TT  ; Dodano oznaczenie cornera (np. Typical)
.options post=1 brief nomod      ; Opcje symulacji dla przejrzystości logów

*** PARAMETERS ***
.param VDD_VAL = 1.8V
.param L_MIN   = 0.2u
.param W_N_UNIT = 0.4u
.param W_P_UNIT = 0.6u
.param SCALE_FACTOR = 3

*** SUBCIRCUITS ***

*--- Inverter Unit ---
.subckt INV in out VDD VSS WN=0.4u WP=0.6u
M1 out in VDD VDD PFET W={WP} L={L_MIN}
M2 out in VSS VSS NFET W={WN} L={L_MIN}
.ends INV

*--- NAND Gate (Logic Core) ---
.subckt NAND_GATE in1 in2 out VDD VSS
* Input Inverters/Buffers (if needed based on your M1-M4)
XINV1 in1 A VDD VSS INV WN=0.4u WP=0.6u
XINV2 in2 B VDD VSS INV WN=0.4u WP=0.6u

* NAND Core Logic
M5 D A VSS VSS NFET W=0.4u L={L_MIN}
M6 E A VDD VDD PFET W=1.2u L={L_MIN}
M7 D B E   VDD PFET W=1.2u L={L_MIN}
M8 D B VSS VSS NFET W=0.4u L={L_MIN}

* Output Stage of NAND
XINV3 D out VDD VSS INV WN=0.4u WP=0.6u
.ends NAND_GATE

*--- High-Drive Tapered Buffer ---
.subckt POWER_BUFFER in out VDD VSS
XBUF1 in   buf1 VDD VSS INV WN={1.2u}   WP={1.8u}
XBUF2 buf1 buf2 VDD VSS INV WN={3.6u}   WP={5.4u}
XBUF3 buf2 buf3 VDD VSS INV WN={10.8u}  WP={16.2u}
XBUF4 buf3 buf4 VDD VSS INV WN={32.4u}  WP={48.6u}
XBUF5 buf4 buf5 VDD VSS INV WN={97.2u}  WP={145.8u}
XBUF6 buf5 out  VDD VSS INV WN={291.6u} WP={437.4u}
.ends POWER_BUFFER

*** TOP LEVEL INSTANTIATION ***
XLOGIC in1 in2 logic_out VDD VSS NAND_GATE
XDRIVE logic_out out     VDD VSS POWER_BUFFER

*** POWER SUPPLIES ***
Vdd VDD 0 DC {VDD_VAL}
Vss VSS 0 DC 0

*** SIGNAL SOURCES ***
Vin1 in1 0 DC {VDD_VAL}
Vin2 in2 0 PULSE(0 {VDD_VAL} 1n 0.1n 0.1n 5n 10n)

*** ANALYSIS ***
.op
.temp -30 27 125
*.tran 0.1n 50n

*** LOAD ***
CLOAD out VSS 25p

.end
